US09353107B2
Step-iii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-hydroxypropoxy)phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-hydroxypropoxyl)phenyl) methanesulfonamide (60 mg, 0.08 mmol) was hydrolyzed by lithium hydroxide (6 mg, 0.25 mmol), THF/methanol/water (1/1/0.5 ml) to afford 5 mg (1.1% yield) of the titled compound. 1H NMR (DMSO-d6, 400 MHz): δ 11.85 (s, 1H), 8.90 (s, 1H), 8.47 (s, 1H), 7.77 (s, 1H), 7.52-7.41 (m, 4H), 7.15-7.00 (m, 4H), 5.32 (s, 2H), 4.60 (b, 1H), 4.13 (t, 2H), 3.63-3.61 (t, 2H), 2.97 (s, 3H), 2.17-2.13 (d, 6H), 1.93 (m, 2H). MS: m/z=564.1 (M+1), HPLC: 98.85% (method-B).

reactant | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-hydroxypropoxyl)phenyl) methanesulfonamide | 0.08 mmol, 60 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCCO)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C36H36FN5O6S2
reactant | lithium hydroxide | 0.25 mmol, 6 mg | [OH-].[Li+]
solvent | THF methanol water | 0.5 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(3-hydroxypropoxy)phenyl)methanesulfonamide | 5 mg, 1.1% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCCO)C)C=CC1 | C29H30FN5O4S
